US09416132B2
Compound N-(piperidin-4-ylmethyl)-3-(3-(trifluoromethoxy)phenyl)imidazo[1,2-b]pyridazin-6-amine (200 mg, 0.47 mmol) was combined with 2-hydroxy-2-methylpropanoic acid (49 mg, 0.47 mmol), EDC (99 mg, 0.51 mmol) and HOAT (64 mg, 0.47 mmol). The mixture was then taken up in DMF (2 mL) and NMM (257 uL, 2.34 mmol) was added. The mixture was then stirred overnight at room temperature. The DMF solution was then poured into an excess of water (20 mL) causing a precipitate to form. The precipitate was collected by filtration and purified via column chromatography (DCM/MeOH 0-15%) to give Compound 2-hydroxy-2-methyl-1-(4-(((3-(3-(trifluoromethoxy)phenyl)imidazo[1,2-b]pyridazin-6-yl)amino)methyl)piperidin-1-yl)propan-1-one.

reactant | N-(piperidin-4-ylmethyl)-3-(3-(trifluoromethoxy)phenyl)imidazo[1,2-b]pyridazin-6-amine | 0.47 mmol, 200 mg | N1CCC(CC1)CNC=1C=CC=2N(N1)C(=CN2)C2=CC(=CC=C2)OC(F)(F)F | C19H20F3N5O
reactant | 2-hydroxy-2-methylpropanoic acid | 0.47 mmol, 49 mg | OC(C(=O)O)(C)C | C4H8O3
reactant | EDC | 0.51 mmol, 99 mg
reactant | HOAT | 0.47 mmol, 64 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | NMM | 2.34 mmol, 257 uL | CN1CCOCC1 | C5H11NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | 20 mL | O | H2O
product | 2-hydroxy-2-methyl-1-(4-(((3-(3-(trifluoromethoxy)phenyl)imidazo[1,2-b]pyridazin-6-yl)amino)methyl)piperidin-1-yl)propan-1-one | OC(C(=O)N1CCC(CC1)CNC=1C=CC=2N(N1)C(=CN2)C2=CC(=CC=C2)OC(F)(F)F)(C)C | C23H26F3N5O3
